US04058550
2,3-Dihydroxypropyl 4-(n-hexadecylamino)benzoate
A solution of 3.6 g. of 4-(n-hexadecylamino)benzoic acid and 1.0 g. of 2,3-epoxypropan-1-ol in 100 ml. of hexamethylphosphoramide is heated at 90° C. for 8 hours. After addition of ether and water, the ether layer is separated and the ether extraction repeated several times. Following evaporation of the ether extracts, the mixture of starting material and desired, 2,3-dihydroxypropyl ester is separated by chromatography on silica gel and recrystallization from acetonitrile.

reactant | 4-(n-hexadecylamino)benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | 2,3-epoxypropan-1-ol | O1C(CO)C1 | C3H6O2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2,3-Dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
